US05994536
1,7-Bis(6-hydroxycyclohexyl)-1,4,7,10-tetraazacyclododecane LiCl complex
10 g (58.08 mmol) of 1,4,7,10-tetraazacyclododecane, 4.85 g (116.16 mmol) of LiCl and 56.5 g (580.0 mmol) of cyclohexene oxide (7-oxabicyclo[4.1.0]heptane) are suspended in 20 ml of isopropanol and refluxed for 20 hours. Then, the reaction mixture is mixed with 30 ml of isopropanol and slowly cooled to 0° C. The crystals that are obtained are suctioned off, washed with 30 ml of methyl-tert-butyl ether and dried in a vacuum. 19.5 g (82% of theory) of 1,7-bis(6-hydroxycyclohexyl)-1,4,7,10-tetraazacyclododecane LiCl complex is obtained as white crystals. Melting point 170-178° C.

reactant | 1,4,7,10-tetraazacyclododecane | 58.08 mmol, 10 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | LiCl | 116.16 mmol, 4.85 g | [Li+].[Cl-]
reactant | cyclohexene oxide | 580.0 mmol, 56.5 g | C12C(CCCC1)O2 | C6H10O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 1,7-Bis(6-hydroxycyclohexyl)-1,4,7,10-tetraazacyclododecane LiCl | OC1CCCCC1N1CCNCCN(CCNCC1)C1CCCCC1O.[Li+].[Cl-] | InChI=1S/C20H40N4O2.ClH.Li/c25-19-7-3-1-5-17(19)23-13-9-21-11-15-24(16-12-22-10-14-23)18-6-2-4-8-20(18)26;;/h17-22,25-26H,1-16H2;1H;/q;;+1/p-1
